US07282516B2
A) 3-(4-Bromophenyl)-3-oxopropanenitrile
A solution containing 9.4 g of KCN in 20 ml of water is prepared and then it is poured dropwise over a mixture containing 20 g of 2-bromo-1-(4-bromophenyl)ethanone dissolved in 800 ml of 90% ethanol. After stirring for 5 hours at RT, the solid formed is filtered and then it is rinsed with ice-cold water. The solid obtained is dissolved in 400 ml of water and then activated charcoal is added, the mixture is kept stirring for 20 minutes, and then filtered on Celite®. The filtrate obtained is treated with HCl at 10% and the white precipitate formed is filtered, washed with water and then dried under vacuum. 7.63 g of the expected compound are obtained. m.p.=164° C.

reactant | KCN | 9.4 g | [C-]#N.[K+]
reactant | 2-bromo-1-(4-bromophenyl)ethanone | 20 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | charcoal | C | CH4
reactant | HCl | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 3-(4-Bromophenyl)-3-oxopropanenitrile | 7.63 g | BrC1=CC=C(C=C1)C(CC#N)=O | C9H6BrNO
